US07691867B2
4-(4,6-dimethoxytriazin-2-yl)-4-methylmorpholinium chloride (0.391 g, 1.32 mmol) was added in one go, at room temperature, to a stirred suspension of (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid (0.400 g, 1.11 mmol) and 2,6-difluoroaniline (0.171 g, 1.32 mmol) in dimethylformamide (7 ml). The mixture was stirred for 2 hours and then poured into water (30 ml) the resultant solid was filtered to give 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,6-difluorophenyl)acetamide (0.403 g, 77% yield) as a pale brown solid:

reactant | 4-(4,6-dimethoxytriazin-2-yl)-4-methylmorpholinium chloride | 1.32 mmol, 0.391 g | [Cl-].COC1=NN(NC(=C1)OC)[N+]1(CCOCC1)C
reactant | (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid | 1.11 mmol, 0.400 g | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)O | C16H16ClN5O3
reactant | 2,6-difluoroaniline | 1.32 mmol, 0.171 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,6-difluorophenyl)acetamide | 0.403 g, 77% yield | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=C(C=CC=C1F)F | C22H19ClF2N6O2
